US07153863B2
A solution of 4-(2-benzyl-7-chloropyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine (65 mg, 0.16 mmol) in cyclopentylamine (2 mL, 20 mmol) was heated at 116° C. for 16 hours. The reaction mixture was cooled and the excess cyclopentylamine was removed in vacuo. The crude material was chromatographed (19:1 dichloromethane:acetone) to provide N-{4-[2-benzyl-7-(cyclopentylamino)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine (23 mg 32%) as a pale yellow solid. Rf 0.12 (5:1 hexanes:ethyl acetate); 1H NMR δ 8.18 (d, 1H), 7.59 (d, 1H), 7.30–7.10 (m, 6H), 6.65 (d, 1H), 5.99 (d, 1H), 4.59 (s, 2H), 4.30 (m, 1H), 3.98 (m, 1H), 2.21–2.00 (m, 4H), 1.90–1.50 (m, 12H); MS m/z 453 (M+1).

reactant | 4-(2-benzyl-7-chloropyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine | 0.16 mmol, 65 mg | C(C1=CC=CC=C1)C1=NN2C(C=CC=C2Cl)=C1C1=NC(=NC=C1)NC1CCCC1 | C23H22ClN5
reactant | cyclopentylamine | 20 mmol, 2 mL | C1(CCCC1)N | C5H11N
product | N-{4-[2-benzyl-7-(cyclopentylamino)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine | 23 mg, 32% | C(C1=CC=CC=C1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C28H32N6
